US08278345B2
Compound 128: 5-(3,4-Dihydro-2H-pyran-2-yl)-3-hydroxy-1-(3-imidazol-1-yl-propyl)-4-(1H-indol-3-yl)-1,5-dihydro-pyrrol-2-one
3-Imidazol-1-yl-propylamine (1 mmol) and 3,4-Dihydro-2H-pyran-2-carbaldehyde (1 mmol) were added to ethanol (5 ml). After 30 min 3-(1H-Indol-3-yl)-2-oxo-propionic acid ethyl ester (1 mmol) was added. The reaction was heated to 50° C. and stirred for 24 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 3-Imidazol-1-yl-propylamine | 1 mmol | N1(C=NC=C1)CCCN | C6H11N3
reactant | 3,4-Dihydro-2H-pyran-2-carbaldehyde | 1 mmol | O1C(CCC=C1)C=O | C6H8O2
reactant | 3-(1H-Indol-3-yl)-2-oxo-propionic acid ethyl ester | 1 mmol | C(C)OC(C(CC1=CNC2=CC=CC=C12)=O)=O | C13H13NO3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-(3,4-Dihydro-2H-pyran-2-yl)-3-hydroxy-1-(3-imidazol-1-yl-propyl)-4-(1H-indol-3-yl)-1,5-dihydro-pyrrol-2-one | O1C(CCC=C1)C1C(=C(C(N1CCCN1C=NC=C1)=O)O)C1=CNC2=CC=CC=C12 | C23H24N4O3
